US08138187B2
3-(2-(4-Butyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)propan-1-ol hydrochloride, polar diastereomer
3-(2-(4-Butyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)propan-1-ol (more polar diastereomer) (54 mg, 0.15 mmol) was dissolved in ethyl acetate (5 ml). Me3SiCl (38 μl, 0.3 mmol) was then added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (2×3 ml) and then dried. Example 181 (57 mg, m.p. 128-132° C., 95%) was obtained as a white solid.

reactant | 3-(2-(4-Butyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)propan-1-ol | C(CCC)C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCO)N(C)C | C23H36N2O
reactant | Me3SiCl | 0.3 mmol, 38 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-(4-Butyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)propan-1-ol hydrochloride | Cl.C(CCC)C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCO)N(C)C | InChI=1S/C23H36N2O.ClH/c1-4-5-14-23(25(2)3)15-12-18(13-16-23)22-20(10-8-17-26)19-9-6-7-11-21(19)24-22;/h6-7,9,11,18,24,26H,4-5,8,10,12-17H2,1-3H3;1H
